US04052454
Ten milliliters of nitrobenzene, 100 milliliters of tetrahydrofuran, 1.0 gram potassium acetate, 1.0 gram selenium and 21.4 grams of p-toluidine are charged to the autoclave which is then flushed and pressured to 800 psig with carbon monoxide. The temperature is raised to 180° C. for one hour giving 1-p-tolyl-3-phenylurea as product.

reactant | nitrobenzene | Ten milliliters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | potassium acetate | 1.0 gram | C(C)(=O)[O-].[K+]
reactant | selenium | 1.0 gram | [Se] | Se
reactant | p-toluidine | 21.4 grams | NC1=CC=C(C=C1)C | C7H9N
solvent | tetrahydrofuran | 100 milliliters | O1CCCC1 | C4H8O
product | 1-p-tolyl-3-phenylurea | C1(=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C | C14H14N2O
